US07345068B2
n-Butyl lithium (1.5 M n-hexane solution; 6.06 ml, 9.09 mmol) was added dropwise to a solution of 5-bromo-2-dimethylaminopyrimidine (1.75 g, 8.66 mmol) in tetrahydrofuran (18 ml) at −78° C. under argon atmosphere in 15 min. The mixture was stirred at the same temperature for 2 hrs. and then tri-n-butyltin chloride (2.5 ml) was added dropwise thereto. The mixture was stirred at the same temperature for 0.5 hrs. and then at room temperature for 1 hr. To the reaction mixture were added 10% aqueous potassium fluoride (50 ml) and ethyl acetate (50 ml) in turn and the mixture was stirred at room temperature for 0.5 hrs. The organic layer was separated and washed with water and brine in turn and dried. The solvent was distilled off under reduced pressure and the residue was purified by column chromatography on amine silica gel (Chromatolex (trademark) NH) (n-hexane) to give 5-tri-n-butylstannyl-2-dimethylaminopyrimidine (2.65 g, 74%) as a colorless oil.

reactant | n-Butyl lithium | 9.09 mmol, 1.5 M, 6.06 ml | C(CCC)[Li]
reactant | 5-bromo-2-dimethylaminopyrimidine | 8.66 mmol, 1.75 g | BrC=1C=NC(=NC1)N(C)C | C6H8BrN3
reactant | tri-n-butyltin chloride | 2.5 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | potassium fluoride | 50 ml | [F-].[K+]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5-tri-n-butylstannyl-2-dimethylaminopyrimidine | 2.65 g, 74% | C(CCC)[Sn](C=1C=NC(=NC1)N(C)C)(CCCC)CCCC | InChI=1S/C6H8N3.3C4H9.Sn/c1-9(2)6-7-4-3-5-8-6;3*1-3-4-2;/h4-5H,1-2H3;3*1,3-4H2,2H3;
